US06936617B2
A solution of LiAlH4 (1M in THF, 4.0 mL, 4.0 mmol) is added to a solution of 3-(1-propyl)-imidazolo[1,2-a]pyridine-2-carboxylate (1 g, 4.3 mmol) in anhydrous THF (50 mL) at 0° C. under nitrogen with magnetic stirring. The resulting pale yellow solution is stirred at 0° C. for 4 h and then quenched by addition of 75 mL of EtOAc and 2 mL saturated aqueous Na2SO4. The resulting mixture is stirred for 1 hour at ambient temperature, dried over anhydrous Na2SO4, filtered through celite and evaporated at reduced pressure to obtain 2-hydroxymethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine as a colorless film. TLC (10% MeOH/CH2Cl2) Rf=0.15. Step 4. Preparation of 2-chloromethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine

reactant | LiAlH4 | 4.0 mmol, 1M, 4.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(1-propyl)-imidazolo[1,2-a]pyridine-2-carboxylate | 4.3 mmol, 1 g | C(CC)C1=C(N=C2N1C=CC=C2)C(=O)[O-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-hydroxymethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine | OCC=1N=C2N(C=CC=C2)C1CCC | C11H14N2O
